US06387893B1
Step 1: 2-Fluorofluorene (21)
2-Fluoro-9-fluorenone, 20 (1.78 gms, 8.9 mmol) was dissolved in ethylene glycol(60 mL) under a nitrogen atmosphere. Hydrazine hydrate(1.8 mL) was added and the mixture was heated at 180° C. for two hours. The mixture was then cooled and poured into water. The aqueous layer was extracted with ethyl acetate and the organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to yield the title compound.

reactant | 2-Fluoro-9-fluorenone | FC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H7FO
reactant | Hydrazine hydrate | 1.8 mL | O.NN
reactant | water | O | H2O
solvent | ethylene glycol | 60 mL | C(CO)O | C2H6O2
product | 2-Fluorofluorene | FC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9F
